US06599922B2
25 g (0.074 mol) of potassium perfluorobutanesulphonate are suspended in 63 ml of methanol. The suspension is heated to a temperature of 50° C. and at the same time hydrochloric acid gas is bubbled through for approx. 1 hour. At the end of the addition the suspension is cooled to a temperature of 0°±5° C. and the potassium chloride filtered. The solution is concentrated under vacuum so as to eliminate the solvent. 26.5 g of a yellowish residue is obtained with a titre of 79.63% equal to 21.1 g of perfluorobutanesulphonic acid (Expected theoretical yield 22.21 g).

reactant | potassium perfluorobutanesulphonate | 0.074 mol, 25 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 63 ml | CO | CH4O
product | perfluorobutanesulphonic acid | 21.1 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
